US06824882B2
To a solution of 15.23 g of 1-(diethylphosphono)-11-(nonafluorobutyl)undecane in 40 mL of dichloromethane was added 11.50 g of bromotrimethylsilane. After 24 hr at room temperature, the solution was concentrated to a pale yellowish liquid, and the intermediate silylphosphonate ester was dissolved in 200 mL of methanol. The resultant solution was stirred at room temperature for 30 min and concentrated to a white solid. Dissolution in methanol and concentration were repeated two times, and two recrystallizations of the crude product from heptane gave 10.85 g of 1-phosphono-11-(nonafluorobutyl)undecane (CF3(CF2)3(CH2)11PO3H2) as colorless plates, m.p. 93-96° C.

reactant | 1-(diethylphosphono)-11-(nonafluorobutyl)undecane | 15.23 g | C(C)OP(=O)(OCC)CCCCCCCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C19H32F9O3P
reactant | bromotrimethylsilane | 11.50 g | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1-phosphono-11-(nonafluorobutyl)undecane | 10.85 g | P(=O)(O)(O)CCCCCCCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C15H24F9O3P
